US06548495B2
(RS)-[5-Fluoro-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-fluoro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J10) (294 mg. 1.0 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester (Example K5) (442 mg, 1.1 mmol) according to the general procedure M. Obtained as an orange solid (509 mg).

reactant | (2-amino-5-fluoro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 1.0 mmol, 294 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)C(F)(F)F)N)=O | C12H14F4N2O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | 1.1 mmol, 442 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[5-Fluoro-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C29H31F4N5O6
